US08895558B2
N-(3-(4-(2,3-Dichlorophenyl)piperazin-1-yl)propyl)-4-hydroxy-1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxamide
To a solution of N-(3-(4-(2,3-dichlorophenyl)piperazin-1-yl)propyl)-4-methoxy-1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxamide (375 mg, 0.60 mmol) was added BBr3 (0.77 ml, 17% in DCM) slowly at 0° C. After stirring at 0° C. for 2˜3 hours, the mixture was quenched with saturated sodium bicarbonate solution and extracted with DCM (50 mL) MeI (2.13 mL, 34.2 mmol). The organic phase was dried over MgSO4 and evaporated under vacuum. The residue was further purified by prep HPLC (Gilson, C18 column) to provide title compound (73 mg, 20%).

reactant | N-(3-(4-(2,3-dichlorophenyl)piperazin-1-yl)propyl)-4-methoxy-1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxamide | 0.60 mmol, 375 mg | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCNC(=O)C1=C(N(C(=C1OC)C1=CC=CC=C1)C)C | C27H32Cl2N4O2
reactant | BBr3 | 0.77 ml | B(Br)(Br)Br | BBr3
reactant | DCM | 34.2 mmol, 50 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-(2,3-Dichlorophenyl)piperazin-1-yl)propyl)-4-hydroxy-1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxamide | 73 mg, 20% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCNC(=O)C1=C(N(C(=C1O)C1=CC=CC=C1)C)C | C26H30Cl2N4O2
